**************************************
*  Model Generated by SCD Eval Lab   *
*            Apr 14, 2004            *
*   Copyright(c) On Semiconductor    *
*         All Rights Reserved        *
*Commercial Use or Resale Restricted *
**************************************
*
.SUBCKT MMT05B064T3 MT2 MT1 PARAMS:
*SSOVP
*MODEL FORMAT: PSpice
+ Vdrm=62v      Idrm=0.5u
+ Ih=300ma      dVdt=5e9
+ Igt=280ma     Vgt=0.9v
+ Vtm=1.5v      Itm=1
+ Ton=1n

* Where:
* Vdrm =>  Forward breakover voltage
* Idrm =>  Peak blocking current
* Ih   =>  Holding current [MT2(+)]
* dVdt =>  Critical value for dV/dt triggering
* Igt  =>  Gate trigger current [MT2(+),G(-)]
* Vgt  =>  Gate trigger voltage [MT2(+),G(-)]
* Vtm  =>  On-state voltage
* Itm  =>  On-state current
* Ton  =>  Turn-on time

* Main conduction path
Striac   MT2     MT20    cntrol   0       Vswitch ; controlled switch
Dak1     MT20    MT22    Dak      OFF             ; triac is initially off
VIak     MT22    MT1                              ; current sensor
Striacr  MT2     MT23    cntrolr  0       Vswitch ; controlled switch
Dka1     MT21    MT23    Dak      OFF             ; triac is initially off
VIka     MT1     MT21                             ; reverse current sense

* dVdt Turn-on
Emon     dvdt0   0       TABLE {ABS(V(MT2,MT1))} (0 0) (2000 2000)
CdVdt    dvdt0   dvdt1   100pfd                   ; displacement current
Rdlay    dvdt1   dvdt2   1k
VdVdt    dvdt2   MT1     DC 0.0
EdVdt    condvdt 0       TABLE {i(vdVdt)-100p*dVdt}  (0 0 ) (.1m 10)
RdVdt    condvdt 0       1meg

* Gate
Rseries  gate    gate1   {(Vgt-0.65)/Igt}
Rshunt   gate1   gate2   {0.65/Igt}
Dgkf     gate1   gate2   Dgk
Dgkr     gate2   gate1   Dgk
VIgf     gate2   MT1     DC 0.0                  ; current sensor

* Gate Turn-on
Egate    congate 0       TABLE {(ABS(i(VIgf))-0.95*Igt)} (0 0) (1m 10)
Rgate    congate 0       1meg

* Holding current, holding voltage (Quadrant I)
Emain1   main1   0       TABLE {i(VIak)-Ih+5e-3*i(VIgf)/Igt} (0 0) (.1m 1)
Rmain1   main1   0       1meg
Emain2   main2   0       TABLE {v(MT2,MT1)-(Ih*Vtm/Itm)} (0 0) (.1m 1)
Rmain2   main2   0       1meg
Emain3   cnhold  0       TABLE {v(main1,0)*v(main2,0)} (0 0 (1 10)
Rmain3   cnhold  0       1meg

* Holding current, holding voltage (Quadrant III)
Emain1r  main1r   0       TABLE {i(VIka)-Ih-5e-3*i(VIgf)/Igt} (0 0) (.1m 1)
Rmain1r  main1r   0       1meg
Emain2r  main2r   0       TABLE {v(MT1,MT2)-(Ih*Vtm/Itm)} (0 0) (.1m 1)
Rmain2r  main2r   0       1meg
Emain3r  cnholdr  0       TABLE {v(main1r,0)*v(main2r,0)} (0 0 (1 10)
Rmain3r  cnholdr  0       1meg

* Main
Emain4   main4    0       table {(1.0-ABS(i(VIgf))/Igt)} (0 0) (1 1)
Rmain4   main4    0       1meg
Emain5   cnmain   0       table {v(mt2,mt1)-1.05*Vdrm*v(main4)} (0 0) (1 10)
Rmain5   cnmain   0       1meg

Emain5r  cnmainr  0       table {v(mt1,mt2)-1.05*Vdrm*v(main4)} (0 0) (1 10)
Rmain5r  cnmainr  0       1meg

* Turn-on/Turn-off control (Quadrant I )
Eonoff   contot  0       TABLE
+        {v(cnmain)+v(congate)+v(cnhold)+v(condvdt)} (0 0) (10 10)

* Turn-on/Turn-off delays (Quadrant I)
Rton     contot  dlay1   825
Dton     dlay1   cntrol  Delay
Rtoff    contot  dlay2   {2.9E-3/Ton}
Dtoff    cntrol  dlay2   Delay
Cton     cntrol  0       {Ton/454}

* Turn-on/Turn-off control (Quadrant III)
Eonoffr  contotr 0       TABLE
+        {v(cnmainr)+v(congate)+v(cnholdr)+v(condvdt)} (0 0) (10 10)

* Turn-on/Turn-off delays (Quadrant III)
Rtonr    contotr dlayr1   825
Dtonr    dlayr1  cntrolr  Delay
Rtoffr   contotr dlayr2   {2.9E-3/Ton}
Dtoffr   cntrolr dlayr2   Delay
Ctonr    cntrolr 0        {Ton/454}

* Controlled switch model
.MODEL Vswitch vswitch
+ (Ron = {(Vtm-0.7)/Itm}, Roff = {Vdrm/Idrm},
+  Von = 5.0,             Voff = 1.5)

* Diodes
.MODEL  Dgk     D         (Is=1E-16 Cjo=50pf Rs=5)
.MODEL  Delay   D         (Is=1E-12 Cjo=5pf Rs=0.01)
.MODEL  Dak     D         (Is=4E-11 Cjo=50pf)

* Allow the gate to float if required
Rfloat  gate    MT1       0.01

.ENDS